US04585731
12.3 g of 1,4-dihydroxy-2-naphthoic acid was dissolved in 100 ml of dimethylformamide, and to the solution was added 23.2 g of a 28% methanolic solution of sodium methylate in a nitrogenous atmosphere at 40° C. with stirring. The mixture was heated to 60° C., and 15.3 g of hexadecyl bromide was added thereto dropwise over a period of 30 minutes. The resulting mixture was heated for 3 hours while stirring, cooled, and then poured into 1 liter of ice-water to which 50 ml of concentrated hydrochloric acid had already been added with stirring. The precipitated crude crystals were filtered and washed with water. After addition of 1 g of activated carbon, the mixture was dissolved in 100 ml of methanol while heating. The activated carbon was filtered, and the filtrate was cooled. The precipitated crystals were filtered, washed with methanol and dried to obtain 9.4 g of 1-hydroxy-4-hexadecyloxy-2-naphthoic acid. Melting Point: 121°-124° C.

reactant | 1,4-dihydroxy-2-naphthoic acid | 12.3 g | OC1=C(C=C(C2=CC=CC=C12)O)C(=O)O | C11H8O4
reactant | sodium methylate | C[O-].[Na+]
reactant | hexadecyl bromide | 15.3 g | C(CCCCCCCCCCCCCCC)Br | C16H33Br
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 1-hydroxy-4-hexadecyloxy-2-naphthoic acid | 9.4 g | OC1=C(C=C(C2=CC=CC=C12)OCCCCCCCCCCCCCCCC)C(=O)O | C27H40O4
